US07582668B2
3-Chloro-N-[(1S)-2-[(N,N-dimethylglycyl)amino]-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]-4-[(1-methylethyl)oxy]benzamide
A mixture of N-[(1S)-2-amino-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]-3-chloro-4-[(1-methylethyl)oxy]benzamide (0.912 g, 1.80 mmol), EDCl (0.69 g, 3.6 mmol), N,N-diisopropylethylamine (0.466 g, 3.6 mmol), and N,N-dimethylglycine (0.372 g, 3.6 mmol) in methylene chloride (17 mL) was stirred overnight at room temperature. The reaction was diluted with water, washed with brine, dried (Na2SO4), and concentrated. The residue was purified by flash chromatography on silica gel (8%-10% MeOH:CH2Cl2) to give the title compound (0.515 g, 48%) as a pale yellow solid. MS(ES+) m/e 592 [M+H]+.

reactant | N-[(1S)-2-amino-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]-3-chloro-4-[(1-methylethyl)oxy]benzamide | 1.80 mmol, 0.912 g | NC[C@H](CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C(C)O)C1)NC(C1=CC(=C(C=C1)OC(C)C)Cl)=O | C28H31ClN4O3
reactant | EDCl | 3.6 mmol, 0.69 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 3.6 mmol, 0.466 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylglycine | 3.6 mmol, 0.372 g | CN(CC(=O)O)C | C4H9NO2
solvent | methylene chloride | 17 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-Chloro-N-[(1S)-2-[(N,N-dimethylglycyl)amino]-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]-4-[(1-methylethyl)oxy]benzamide | 0.515 g, 48% | ClC=1C=C(C(=O)N[C@H](CNC(CN(C)C)=O)CC2=CC=C(C=C2)C=2N=C3N(C=CC=C3C(C)O)C2)C=CC1OC(C)C | C32H38ClN5O4
